US07183436B2
3.83 g 4-dimethylamino-4-phenylcyclohexanone dissolved in 10 ml tetrahydrofuran were added dropwise to 21 ml 1.0 molar phenethyl magnesium chloride solution in tetrahydrofuran and the mixture was stirred overnight at ambient temperature. To work up the mixture with ice cooling, 15 ml ammonium chloride solution (20% by weight) were added, the mixture was extracted three times with 15 ml ethylacetate in each case, the extracts were combined, dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. The crude 4-dimethylamino-1-phenethyl-4-phenylcyclohexanol (5.75 g) obtained was obtained as a brown oil which was chromatographed with diethylether/hexane (V:V=1:1) over silica gel. 1.71 g 4-dimethylamino-1-phenethyl-4-phenylcylcohexanol were obtained in the form of yellow crystals which were dissolved in 6.8 ml 2-butanone and converted by reaction with 26 μl water and 366 μl chlorotrimethylsilane, stirring overnight with subsequent filtration into 838 mg of the corresponding hydrochloride.

reactant | 4-dimethylamino-4-phenylcyclohexanone | 3.83 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | phenethyl magnesium chloride | 1.0 molar, 21 ml | C(CC1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-dimethylamino-1-phenethyl-4-phenylcylcohexanol | 1.71 g | CN(C1(CCC(CC1)(O)CCC1=CC=CC=C1)C1=CC=CC=C1)C | C22H29NO
